US04236002
α-sulfo-3-(chloromethyl)-4-hydroxybenzeneacetic acid
α-Sulfo-4-hydroxybenzeneacetic acid, 0.3 mole, is dissolved in aqueous sulfuric acid (50%). One equivalent of dichloromethyl ether is added to the solution maintained at between 35° to 45° C. Hydrogen chloride is then bubbled through this reaction mixture for 3 hours. The desired compound is recovered by pouring the reaction mixture into water and extracting the title compound with ethyl acetate. The ethyl acetate is dried over magnesium sulfate. The magnesium sulfate is removed by filtration and evaporation of the ethyl acetate gives the desired compound.

reactant | α-Sulfo-4-hydroxybenzeneacetic acid | S(=O)(=O)(O)C(C(=O)O)C1=CC=C(C=C1)O | C8H8O6S
reactant | dichloromethyl ether | One equivalent | ClC(Cl)OC(Cl)Cl | C2H2Cl4O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | α-sulfo-3-(chloromethyl)-4-hydroxybenzeneacetic acid | S(=O)(=O)(O)C(C(=O)O)C1=CC(=C(C=C1)O)CCl | C9H9ClO6S
